US06815413B2
9-Methylcyclohexadecanone
500 mg (2 mmol) of 9-methylenecyclohexadecanone are introduced into 25 ml of ethyl acetate, and 25 mg of Pd/C are added thereto. Hydrogenation is then carried out at 40° C. and standard hydrogen pressure for 5 h. When the reaction is complete, the mixture is filtered over Celite, and the crude product is freed from solvent. Purification by flash chromatography (cyclohexane/EtOAc=25:1) gives 475 mg (94%) of a colorless oil.

reactant | 9-methylenecyclohexadecanone | 2 mmol, 500 mg | C=C1CCCCCCCC(CCCCCCC1)=O | C17H30O
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 25 mg | [Pd] | Pd
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | 9-Methylcyclohexadecanone | 475 mg, 94% | CC1CCCCCCCC(CCCCCCC1)=O | C17H32O
